US05270319
5-[[4,6-Bis-(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-2-thioxo-4-thiazolidinone
A mixture of 4,6-bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde (0.5 g, 1.5 mmoles), rhodanine (0.25 g, 1.8 mmoles), and β-alanine (0.27 g, 3.1 mmoles) in acetic acid is heated at reflux for 1.5 hours. This solution is cooled to room temperature and diluted with 100 mL of water. The precipitate is collected by filtration and recrystallized from isopropyl ether/hexane. Yield of 5-[[4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-2-thioxo-4-thiazolidinone=0.26 g (48%). MP=257°-261° C. dec.

reactant | 4,6-bis-(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-pyrimidine carboxaldehyde | 1.5 mmoles, 0.5 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C=O | C17H28N2O4
reactant | rhodanine | 1.8 mmoles, 0.25 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | β-alanine | 3.1 mmoles, 0.27 g | NCCC(=O)O | C3H7NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 5-[[4,6-Bis-(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-2-thioxo-4-thiazolidinone | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=C1C(NC(S1)=S)=O | C16H21N3O2S2
